plaintext
* Diodes
D1 3 2 D1_model
.model D1_model D (n=2)

D2 3 2 D2_model
.model D2_model D (n=2)

D3 4 2 D3_model
.model D3_model D (m=1)

D4 4 2 D4_model
.model D4_model D (m=1)

* Resistors
RB B 2  RB_value
RC C 3  RC_value
RE 2 E  RE_value

* Current Source
I1 4 2 DC (betaIp-betaIR)

* Voltage sources and grounds
VBC C 3 DC VBC_value
VBE B 2 DC VBE_value

.end